US08022223B2
Step A: Preparation of tert-butyl 4-chloro-7,8-dihydropyrido[4,3-d]pyrimidine-6(5H)-carboxylate:
A mixture of PPh3 (81.4 g, 310 mmol) and N-chlorosuccinimide (41.4 g, 310 mmol) in dioxane (850 mL) was stirred at ambient temperature for 30 minutes. To this suspension was added tert-butyl 4-hydroxy-7,8-dihydropyrido[4,3-d]pyrimidine-6(5H)-carboxylate and the mixture stirred at 50° C. for 18 hours. The mixture was subsequently treated with triethylamine (25 mL, 183 mmol) and the resulting brown solution concentrated. The black oil was dry packed onto silica gel and purified by chromatography eluting with 15-20% EtOAc/Hexanes to give the title compound as a yellow gum.

reactant | PPh3 | 310 mmol, 81.4 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | N-chlorosuccinimide | 310 mmol, 41.4 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | tert-butyl 4-hydroxy-7,8-dihydropyrido[4,3-d]pyrimidine-6(5H)-carboxylate | OC=1C2=C(N=CN1)CCN(C2)C(=O)OC(C)(C)C | C12H17N3O3
reactant | triethylamine | 183 mmol, 25 mL | C(C)N(CC)CC | C6H15N
solvent | dioxane | 850 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 4-chloro-7,8-dihydropyrido[4,3-d]pyrimidine-6(5H)-carboxylate | ClC=1C2=C(N=CN1)CCN(C2)C(=O)OC(C)(C)C | C12H16ClN3O2
